US07429565B2
2-(Dimethoxy-phosphoryl)-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid methyl ester
To a solution of trimethylphosphonoacetate (63 μL, 0.39 mmol) in THF (1 mL) was added NaN (TMS)2 (0.39 mmol, 0.39 mL) at ambient temperature. After 30 minutes, a solution of 6-(4-bromo-3-methyl-but-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one (69 mg, 0.156 mmol) in THF (1 mL) was added. The reaction mixture was stirred for 2 hours when a precipitate was observed. The reaction mixture was worked up by addition of a saturated aqueous solution of ammonium chloride and extraction of the product with EtOAc. The organic extract was dried and the product was purified using silica gel chromatography with 0-100% EtOAc-Hexanes to provide 40 mg of the desired product as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 0.05 (s, 9H), 1.20-1.26 (m, 2H), 1.79 (s, 3H), 2.17 (s, 3H), 2.42-2.72 (m, 2H), 3.19 (ddd, 1H, J=4, 12, 23 Hz), 3.39 (d, 2H, J=7 Hz), 3.62 (s, 3H), 3.75 (s, 3H), 3.77-3.84 (m, 6H), 4.27-4.34 (m, 2H), 5.12 (s, 2H), 5.24 (t, 1H, J=7 Hz) ppm; 31p (121.4 MHz, CDCl3) δ 25.1 ppm; MS (m/z) 565.2 [M+Na]+.

reactant | trimethylphosphonoacetate | 0.39 mmol, 63 μL | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | 6-(4-bromo-3-methyl-but-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | 0.156 mmol, 69 mg | BrCC(=CCC1=C(C(=C2COC(C2=C1OCC[Si](C)(C)C)=O)C)OC)C | C20H29BrO4Si
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(Dimethoxy-phosphoryl)-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid methyl ester | 40 mg | COC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)P(=O)(OC)OC)=O | C25H39O9PSi
